US06133279
To a solution of 0.5 g of 4,6-di-t-butyl-2-formyl-2-methyl-5-trimethylsilyloxy-2,3-dihydrobenzofuran in 5 ml of t-butyl alcohol were added 5 ml of a saturated aqueous sodium dihydrogenphosphate solution and 0.73 ml of 2-methyl-2-butene, and the mixture was cooled to -5° C. To this solution was added dropwise a solution of 0.14 g of sodium chlorite in 5 ml of distilled water, and the mixture was stirred for 20 minutes, then further stirred at room temperature for 15 minutes. The reaction solution was extracted with diethyl ether, and the combined organic layers were washed with saturated brine, dried over anhydrous magnesium sulfate, and then concentrated. The residue was recrystallized from hexane to give 0.38 g of 4,6-di-t-butyl-2-methyl-5-trimethylsilyloxy-2,3-dihydrobenzofuran-2-carboxylic acid as a colorless powder (yield 73%).

reactant | 4,6-di-t-butyl-2-formyl-2-methyl-5-trimethylsilyloxy-2,3-dihydrobenzofuran | 0.5 g | C(C)(C)(C)C1=C(C(=CC2=C1CC(O2)(C)C=O)C(C)(C)C)O[Si](C)(C)C | C21H34O3Si
reactant | sodium dihydrogenphosphate | 5 ml | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 0.73 ml | CC(C)=CC | C5H10
reactant | sodium chlorite | 0.14 g | Cl(=O)[O-].[Na+]
solvent | t-butyl alcohol | 5 ml | C(C)(C)(C)O | C4H10O
solvent | water | 5 ml | O | H2O
product | 4,6-di-t-butyl-2-methyl-5-trimethylsilyloxy-2,3-dihydrobenzofuran-2-carboxylic acid | 0.38 g, yield 73% | C(C)(C)(C)C1=C(C(=CC2=C1CC(O2)(C(=O)O)C)C(C)(C)C)O[Si](C)(C)C | C21H34O4Si
